US06790860B2
(2S,4R)-(1-methanesulfonyl-4-tritylsulfanyl-pyrrolidin-2-yl)-methanol with 3-bromo-1-phenyl-1-propene, followed by hydrogenation (17 h) and TFA/triethylsilane deprotection (Method 3) gave (3R,5S)-1-methanesulfonyl-5-(3-phenyl-propoxymethyl)-pyrrolidine-3-thiol, MS: 329 (M).

reactant | (2S,4R)-(1-methanesulfonyl-4-tritylsulfanyl-pyrrolidin-2-yl)-methanol | CS(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C25H27NO3S2
reactant | 3-bromo-1-phenyl-1-propene | BrCC=CC1=CC=CC=C1 | C9H9Br
reactant | TFA triethylsilane | C(=O)(C(F)(F)F)O.C(C)[SiH](CC)CC
product | (3R,5S)-1-methanesulfonyl-5-(3-phenyl-propoxymethyl)-pyrrolidine-3-thiol | CS(=O)(=O)N1C[C@@H](C[C@H]1COCCCC1=CC=CC=C1)S | C15H23NO3S2
